US05043344
6-Bromo-2,2-dimethyl-2H-chromene is metallated at -78° C. using 2 equivalents of tert.-butyllithium and subsequently reacted with 2-trifluoromethylbenzaldehyde to give 2,2-dimethyl-6-(2-trifluoromethyl-hydroxybenzyl)-2H-chromene which is produced as an oil.

reactant | 6-Bromo-2,2-dimethyl-2H-chromene | BrC=1C=C2C=CC(OC2=CC1)(C)C | C11H11BrO
reactant | tert.-butyllithium | 2 equivalents | C(C)(C)(C)[Li]
reactant | 2-trifluoromethylbenzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
product | 2,2-dimethyl-6-(2-trifluoromethyl-hydroxybenzyl)-2H-chromene | CC1(OC2=CC=C(C=C2C=C1)C(C1=C(C=CC=C1)C(F)(F)F)O)C | C19H17F3O2
